US05120843
4-[3,5-Dimethyl-4-methoxyphenyl)butanol
A mixture of 2,6-dimethylanisole (4.45 g), succinic anhydride (4.80 g) and aluminum chloride (4.70 g) in toluene (60 ml) is stirred for 2.7 hr at 20°-25°. A 100 ml aliquot of methylene chloride is added for solubility. The reaction is run for 6 hr. The reaction is poured onto ice and extracted with methylene chloride-isopropanol. The organic phase is washed with saline, dried over sodium sulfate, concentrated and dried under reduced pressure overnight to give a solid. This material is stirred with borane-methyl sulfide complex (1.0M, 38 ml) in THF at 20°-25° for 24 hr. Aqueous sodium bicarbonate, methylene chloride and water are added. The ketoalcohol product is combined with other partly reduced materials and treated with borane-methyl sulfide complex in excess in methylene chloride for 72 hr. It is important that the ketoacid Friedel Crafts adduct should be reduced exhaustively with excess borane-methyl sulfide complex.

reactant | 2,6-dimethylanisole | 4.45 g | CC1=C(C(=CC=C1)C)OC | C9H12O
reactant | succinic anhydride | 4.80 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | aluminum chloride | 4.70 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ketoalcohol | O(O)O | H2O3
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
solvent | THF | C1CCOC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 4-[3,5-Dimethyl-4-methoxyphenyl)butanol | CC=1C=C(C=C(C1OC)C)CCCCO | C13H20O2
